US08580783B2
2-(2-amino-5-benzo[1,3]dioxol-5-ylmethyl-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-10-ylamino)-ethanol
Operating as in Example 54, but employing 5-benzo[1,3]dioxol-5-ylmethyl-8,10-difluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine prepared as described in Example 30 instead of 5-benzo[1,3]dioxol-5-ylmethyl-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine and 2-hydroxy-ethylamine instead of morpholine, the title compound was obtained in 17% yield.

reactant | 5-benzo[1,3]dioxol-5-ylmethyl-8,10-difluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | O1COC2=C1C=CC(=C2)CC2=NC=1C=C(C=C(C1C=1N2N=C(N1)N)F)F | C17H11F2N5O2
reactant | 5-benzo[1,3]dioxol-5-ylmethyl-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | O1COC2=C1C=CC(=C2)CC2=NC=1C=C(C=CC1C=1N2N=C(N1)N)F | C17H12FN5O2
reactant | 2-hydroxy-ethylamine | OCCN | C2H7NO
product | 2-(2-amino-5-benzo[1,3]dioxol-5-ylmethyl-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-10-ylamino)-ethanol | 17% yield | NC1=NN2C(=NC=3C=C(C=C(C3C2=N1)NCCO)F)CC1=CC2=C(OCO2)C=C1 | C19H17FN6O3
